US05677431
Succinic anhydride (5.00 grams, 0.05 mole) and (3-aminophenyl)boronic acid (7.75 grams, 0.05 mole) are dissolved in anhydrous pyridine (40 ml), and then allowed to stand overnight at room temperature. Water (20 ml) is added and the resulting solution allowed to stand for 1 hour. The product is then concentrated on a rotary evaporator at 85°-90° C. The resulting aqueous solution is frozen in a dry-ice-acetone-slurry and lyophilized overnight. The lyophilized product is dissolved in water (50 ml) and acidified with concentrated HCl to approximately pH 1.0. The acidified solution is cooled in an ice bath for 1 hour, and the precipitate collected by filtration. The precipitate is recrystallized from boiling water (200 ml) and dried overnight in vacuo over NaOH pellets, to afford 8.60 grams (70% yield) of N-(3-dihydroxyborylphenyl)succinamic acid. Homogeneous by TLC (CHCl3 /CH3OH/CH3COOH; 60:35:5), Rf =0.5. Melting point 186°-188° C. The structure was confirmed by 300 MHz, 1 H NMR, spectrometry in d6 -DMSO.

reactant | Succinic anhydride | 0.05 mole, 5.00 grams | C1(CCC(=O)O1)=O | C4H4O3
reactant | (3-aminophenyl)boronic acid | 0.05 mole, 7.75 grams | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | Water | 20 ml | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-(3-dihydroxyborylphenyl)succinamic acid | 8.60 grams, 70% yield | OB(C=1C=C(C=CC1)NC(CCC(=O)O)=O)O | C10H12BNO5
